US05123951
Mono-ethyl ethylmalonate (5.0 grams, 0.03 mole), 3,5-dichloroaniline (5.06 grams, 0.03 mole) and 1,3-dicyclohexylcarbodiimide (6.44 grams, 0.03 mole) were reacted in a manner similar to that described in Example LVII to give 0.87 gram (0.003 mole) of ethyl 2-(3,5-dichlorophenylaminocarbonyl)butanoate having a melting point of 96.5° C.-98° C.

reactant | Mono-ethyl ethylmalonate | 0.03 mole, 5.0 grams | C(C)C(C(=O)OCC)C(=O)[O-]
reactant | 3,5-dichloroaniline | 0.03 mole, 5.06 grams | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | 1,3-dicyclohexylcarbodiimide | 0.03 mole, 6.44 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | ethyl 2-(3,5-dichlorophenylaminocarbonyl)butanoate | 0.003 mole, 0.87 gram | ClC=1C=C(C=C(C1)Cl)NC(=O)C(C(=O)OCC)CC | C13H15Cl2NO3
